US07105507B2
1,1-Dimethylethyl 4-Ethenyl-4-(phenylmethoxymethyl)-1-piperidinecarboxylate
1,1,1-Tris(acetyloxy)-1,1-dihydro-1,2-benziodoxol-3(1H)-one (1.38 g, 3.3 mmol) was added to a solution of 1,1-dimethylethyl 4-(hydroxymethyl)-4-(phenylmethoxymethyl)-1-piperidinecarboxylate (Description 95, 1.06 g, 3 mmol) in dichloromethane (40 mL) and the mixture was stirred at room temperature for 4 hours. Aqueous sodium bisulfite (10%, 10 mL) was added and the mixture was stirred at room temperature for 5 minutes. Saturated aqueous sodium hydrogen carbonate (20 mL) was added and the layers were separated. The organic layer was dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was dissolved in tetrahydrofuran (20 mL), and added to a stirred, cooled (0° C.) solution of triphenylphosphoranylidine (0.1M, 50 mL). The mixture was stirred at room temperature for 16 hours, then the solvent was evaporated under reduced pressure. Ethyl acetate (40 mL) and aqueous sodium hydrogen carbonate (10%, 40 mL) were added and the layers were separated. The organic layer was dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with isohexane/EtOAc (75:25) give the title compound (1.01 g, 99%). m/z (ES+) 332 (M+1).

reactant | 1,1,1-Tris(acetyloxy)-1,1-dihydro-1,2-benziodoxol-3(1H)-one | 3.3 mmol, 1.38 g | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 1,1-dimethylethyl 4-(hydroxymethyl)-4-(phenylmethoxymethyl)-1-piperidinecarboxylate | 3 mmol, 1.06 g | OCC1(CCN(CC1)C(=O)OC(C)(C)C)COCC1=CC=CC=C1 | C19H29NO4
reactant | sodium bisulfite | 10 mL | S([O-])(O)=O.[Na+]
reactant | sodium hydrogen carbonate | 20 mL | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 1,1-Dimethylethyl 4-Ethenyl-4-(phenylmethoxymethyl)-1-piperidinecarboxylate | 1.01 g, 99% | C(=C)C1(CCN(CC1)C(=O)OC(C)(C)C)COCC1=CC=CC=C1 | C20H29NO3
